US08729274B2
To a solution of 3-chloro-1,2-dihydrocyclobutabenzene-1-carboxylic acid (7.67 mmol, 1.4 g) in DCM (20 ml) was added N-benzyl-2-methylprop-2-en-1-amine (11.50 mmol, 1.854 g), triethylamine (15.33 mmol, 2.131 ml, 1.552 g) and cyclophos (50 wgt % solution in EtOAc) (9.20 mmol, 2.74 ml, 2.93 g). The mixture was stirred at ambient temperature overnight then cyclophos (50 wgt % solution in EtOAc) (0.5 ml) added and the mixture stirred for a further 1 hr. The mixture was diluted with DCM (10 ml), washed with 2 N HCl (20 ml) then 2 N NaOH (20 ml), dried over Na2SO4, filtered and concentrated under reduced pressure to afford N-benzyl-3-chloro-N-(2-methylallyl)-1,2-dihydrocyclobutabenzene-1-carboxamide as a brown oil (1.8 g).

reactant | 3-chloro-1,2-dihydrocyclobutabenzene-1-carboxylic acid | 7.67 mmol, 1.4 g | ClC1=CC=CC2=C1CC2C(=O)O | C9H7ClO2
reactant | N-benzyl-2-methylprop-2-en-1-amine | 11.50 mmol, 1.854 g | C(C1=CC=CC=C1)NCC(=C)C | C11H15N
reactant | triethylamine | 15.33 mmol, 2.131 ml, 1.552 g | C(C)N(CC)CC | C6H15N
reactant | cyclophos | 9.20 mmol, 2.74 ml, 2.93 g | [O-]P1(=O)OP(=O)(OP(=O)(OP(=O)(O1)[O-])[O-])[O-].[Na+].[Na+].[Na+].[Na+]
reactant | cyclophos | 0.5 ml | [O-]P1(=O)OP(=O)(OP(=O)(OP(=O)(O1)[O-])[O-])[O-].[Na+].[Na+].[Na+].[Na+]
solvent | DCM | 20 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
product | N-benzyl-3-chloro-N-(2-methylallyl)-1,2-dihydrocyclobutabenzene-1-carboxamide | 1.8 g | C(C1=CC=CC=C1)N(C(=O)C1CC2=C1C=CC=C2Cl)CC(=C)C | C20H20ClNO
